US03996227
1-Methyl-N-(4-methyl cyclohexylidene)-ethylamine
To a mixture of 600 g. 4-methyl cyclohexanone and 1 l. isopropylamine are added 500 g. Linde Type 3A molecular sieves. The mixture is allowed to stand overnight at room temperature, after which the sieves are removed by filtration and the excess of isopropylamine is removed in vacuo at room temperature. The residual oil is 1-methyl-N-(4-methyl cyclohexylidene)-ethylamine.

reactant | 4-methyl cyclohexanone | CC1CCC(CC1)=O | C7H12O
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 1-Methyl-N-(4-methyl cyclohexylidene)-ethylamine | CC(C)N=C1CCC(CC1)C | C10H19N
